US04214004
3-(2-Methylphenyl)benzyl alcohol was prepared as follows: Under a nitrogen atmosphere a stirred mixture of magnesium turnings (3.0 g, 0.12 mole) and 10 ml of 1,2-dibromoethane in 100 ml of dry tetrahydrofuran was heated to 30°. To the stirred mixture was added dropwise 4,5-dihydro-4,4-dimethyl-2-(3-bromophenyl)oxazole (26.9 g, 0.11 mole) in 50 ml of dry tetrahydrofuran. Upon complete addition, the reaction mixture was heated at reflux for 1.5 hours. The so-prepared Grignard reagent was cooled, placed in a dropping funnel, and added dropwise at 0° to a stirred solution of 2-bromotoluene (18.1 g, 0.11 mole) and 0.5 g of bis(1,3-diphenylphosphino)propanenickel(II) chromate in 150 ml of dry tetrahydrofuran. The temperature of the reaction mixture was maintained at 0° throughout the addition. Upon complete addition, the temperature was allowed to rise to 15°, and the reaction mixture was stirred for 16 hours, then heated under reflux for approximately 24 hours. The reaction mixture was cooled and poured into 500 ml of water. The resultant emulsion was broken by pouring small amounts of the mixture into 1000 ml portions of water. Each portion was extracted with two 200 ml portions of toluene. The combined toluene extracts were evaporated under reduced pressure to afford 25 g of oily residue. The combined water layers were divided into three parts, and to each part was added 10 ml of 6 N hydrochloric acid. Each part was extracted with toluene. The combined extracts were evaporated under reduced pressure to give an additional 8.8 g of oily residue. The residues were combined and impurities removed by distillation using a Kugelrohr distilling system. The residue was purified by column chromatography on silica gel, producing 4,5-dihydro-4,4-dimethyl-2-[(2'-methyl[1,1'biphenyl]-3-yl)oxazole (7.2 g).

reactant | magnesium | 0.12 mole, 3.0 g | [Mg] | Mg
reactant | 1,2-dibromoethane | 10 ml | BrCCBr | C2H4Br2
reactant | 4,5-dihydro-4,4-dimethyl-2-(3-bromophenyl)oxazole | 0.11 mole, 26.9 g | CC1(N=C(OC1)C1=CC(=CC=C1)Br)C | C11H12BrNO
reactant | 2-bromotoluene | 0.11 mole, 18.1 g | BrC1=C(C=CC=C1)C | C7H7Br
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
solvent | water | 500 ml | O | H2O
product | 3-(2-Methylphenyl)benzyl alcohol | CC1=C(C=CC=C1)C=1C=C(CO)C=CC1 | C14H14O
